US05998433
b) Synthesis of 6-(4-phenethylbenzoyl)-2-(1-pyrrolidinylmethyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride
6-(4-Phenethylbenzoyl)-2-(1-pyrrolidinylmethyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine 1.004 g was dissolved in 2 ml of methanol; hydrogen chloride in methanol was added in excess, followed by stirring. This mixture was concentrated; the resulting solid was washed with diethyl ether to yield the desired product.

reactant | 6-(4-Phenethylbenzoyl)-2-(1-pyrrolidinylmethyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | 1.004 g | C(CC1=CC=CC=C1)C1=CC=C(C(=O)N2CC3=C(CC2)C=C(O3)CN3CCCC3)C=C1 | C27H30N2O2
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 2 ml | CO | CH4O
product | 6-(4-phenethylbenzoyl)-2-(1-pyrrolidinylmethyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine hydrochloride | Cl.C(CC1=CC=CC=C1)C1=CC=C(C(=O)N2CC3=C(CC2)C=C(O3)CN3CCCC3)C=C1 | InChI=1S/C27H30N2O2.ClH/c30-27(23-12-10-22(11-13-23)9-8-21-6-2-1-3-7-21)29-17-14-24-18-25(31-26(24)20-29)19-28-15-4-5-16-28;/h1-3,6-7,10-13,18H,4-5,8-9,14-17,19-20H2;1H
